US05324449
95 g of trifluoromethoxybenzaldehyde in 150 ml of THF are added over the course of 2-3 hours at -10° to -5° to a mixture of 300 g of trans-4-(trans-4-propylcyclohexyl)cyclohexylmethyltriphenylphosphonium iodide, 56 g of potassium tert.-butoxide and 500 ml of THF. The mixture is allowed to warm to room temperature and neutralized using 2 N HCl, water is added, and the mixture is extracted with methyl tert.-butyl ether. After work-up of the organic phase and purification by chromatography on silica gel, 1-(4-trifluoromethoxyphenyl)-2-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]ethene is obtained.

reactant | trifluoromethoxybenzaldehyde | 95 g | FC(OC1=C(C=O)C=CC=C1)(F)F | C8H5F3O2
reactant | trans-4-(trans-4-propylcyclohexyl)cyclohexylmethyltriphenylphosphonium iodide | 300 g | [I-].C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert.-butoxide | 56 g | CC(C)([O-])C.[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-trifluoromethoxyphenyl)-2-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]ethene | FC(OC1=CC=C(C=C1)C=C[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)(F)F | C24H33F3O
